US06521643B1
To a suspension of 3-(4-methoxypyridin-2-yl)aniline (357 mg) in acetone (5 ml) was added benzoyl isothiocyanate (0.252 ml), and the mixture was stirred at ambient temperature for 1 hour. To the reaction mixture was added diisopropyl ether, and the precipitate was collected by filtration and dried to give N-(3-(4-methoxypyridin-2-yl)phenyl)-N′-benzoylthiourea (462 mg).

reactant | 3-(4-methoxypyridin-2-yl)aniline | 357 mg | COC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C12H12N2O
reactant | benzoyl isothiocyanate | 0.252 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-(3-(4-methoxypyridin-2-yl)phenyl)-N′-benzoylthiourea | 462 mg | COC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=S)NC(C1=CC=CC=C1)=O | C20H17N3O2S
